US06194428B1
Methyl 5,7-dihydro-4-(4-chlorophenyl)-2-methyl-7-oxo-furo [3,4-b]-pyridine-3-carboxylate
Corresponding to Example 1, 1.5 g (3.92 mmol) of methyl 1,4,5,7-tetrahydro-4-(4-chlorophenyl)-2-methyl-7-oxo-furo[3,4-b]-pyridine-3-carboxylate in 350 ml of methylene chloride are reacted with 7.5 g of manganese dioxide to give 0.94 g (63% of theory) of the title compound.

reactant | methyl 1,4,5,7-tetrahydro-4-(4-chlorophenyl)-2-methyl-7-oxo-furo[3,4-b]-pyridine-3-carboxylate | 3.92 mmol, 1.5 g | ClC1=CC=C(C=C1)C1C2=C(NC(=C1C(=O)OC)C)C(OC2)=O | C16H14ClNO4
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 7.5 g | [O-2].[O-2].[Mn+4]
product | Methyl 5,7-dihydro-4-(4-chlorophenyl)-2-methyl-7-oxo-furo [3,4-b]-pyridine-3-carboxylate | ClC1=CC=C(C=C1)C1=C2C(=NC(=C1C(=O)OC)C)C(OC2)=O | C16H12ClNO4
